### PR TITLE
Review the conway diff spec

### PR DESCRIPTION
**Pull request by carlostome**
# Description

This addresses #683 

# Checklist

- [ ] Commit sequence broadly makes sense and commits have useful messages
- [ ] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [ ] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Fees.lagda [hunk 1]
```diff
@@ -7,62 +7,74 @@ open import Ledger.Transaction
...
 
 \section{Fee Calculation}
 \begin{figure*}[h]
 \begin{AgdaMultiCode}
-\begin{code}[hide]
-_↑ℚ : ℕ → ℚ
-n ↑ℚ = mkℚ+ n 1 (1-coprimeTo n ∘ swap)
-\end{code}
 \begin{code}
 scriptsCost : (pp : PParams) → ℕ → Coin
```
Comment (carlostome) [inline src/Ledger/Fees.lagda:27]: Why is the name in plural? If I understand correctly this is used to calculate the cost of one script

File: src/Ledger/Fees.lagda [hunk 2]
```diff
@@ -71,16 +83,20 @@ scriptsCost pp scSz with (PParams.refScriptCostStride pp)
...
 the fee for reference scripts in the transaction using a function that
 is piece-wise linear in the size, where the linear constant multiple
-grows with each \refScriptCostStride{} bytes. Thus, the \scriptsCost{}
-function depends on the \AgdaFunction{scriptsTotalSize} function,
-which returns an integer that is the total size of the reference
-script in bytes, as well as the following protocol parameters:
+grows with each \AgdaFunction{refScriptCostStride} bytes.
+%
+This function takes as input the total size of the reference script in
+bytes. The function \AgdaFunction{scriptsTotalSize} is used to
```
Comment (carlostome) [inline src/Ledger/Fees.lagda:89]: Where is `scriptsTotalSize` defined?

File: src/Ledger/Fees.lagda (hunk 1 above)
Comment (WhatisRT) [reply src/Ledger/Fees.lagda:27]: No, the argument it gets is the sum of the sizes of reference scripts, so this name is correct. Is there some inconsistency elsewhere?

File: src/Ledger/Fees.lagda (hunk 2 above)
Comment (WhatisRT) [reply src/Ledger/Fees.lagda:89]: It doesn't seem to exist. I think it may refer to `refScriptsSize` going by the explanation, so maybe there was some renaming going on?

This explanation is also quite confusing, I'm not sure what a function depending on another function is supposed to mean. I'd just write something like '\scriptsCost{} expects the sum of sizes of reference scripts as computed by \refScriptsSize{} as its input'.

Comment (WhatisRT) [reply src/Ledger/Fees.lagda:89]: Now that I look at it, it's also confusing to call these arguments protocol parameters (below). They're currently hardcoded and may become protocol parameters in the future, if we don't manage to get rid of that function.

File: src/Ledger/Fees.lagda (hunk 1 above)
Comment (carlostome) [reply src/Ledger/Fees.lagda:27]: Somewhere in the explanation it was suggested:
"... which returns an integer that is the total size of the reference script ..."

File: src/Ledger/Fees.lagda (hunk 2 above)
Comment (carlostome) [reply src/Ledger/Fees.lagda:89]: I see. Maybe it would be best to redefine `scriptsCost` such that all those are given as arguments. WDYT?

File: src/Prelude.agda [hunk 3]
```diff
@@ -76,3 +78,11 @@ syntax ∃₂-syntax (λ x y → C) = ∃₂[ x , y ] C
 import Data.Nat.Literals as ℕ
 
 instance Number-ℕ = ℕ.number
+
+-- (pseudo)equality (for Maybe)
+_≡?_ : {A : Type} → Maybe A → Maybe A → Type
```
Comment (carlostome) [inline src/Prelude.agda:83]: I find this symbol a bit confusing since `?` is everywhere else? used for decidability purposes.

I'd suggest to rename it to one of: ≊ ≋ ≅

File: src/Ledger/Fees.lagda (hunk 2 above)
Comment (WhatisRT) [reply src/Ledger/Fees.lagda:89]: That just shifts the problem to the call site, but they're still going to be hard coded somewhere. Having them at least be defined right next to where they are used makes it more local.

I guess we could have some type that holds these things, but I think this is the only instance we currently have of these magic numbers. Another option would be to add them to the `GlobalConstants`, but these also have a very specific meaning (these are set by the 'genesis file' in the implementation). So all in all I don't think this can really be improved.

File: src/Prelude.agda (hunk 3 above)
Comment (williamdemeo) [reply src/Prelude.agda:83]: I like the first two equality symbols you suggest, but the last is overused.

Comment (carlostome) [reply src/Prelude.agda:83]: I've seen the symbol ≃ used for Kleene equality (https://en.wikipedia.org/wiki/Kleene_equality).

Since the notion of equality  we use is even weaker, I'm leaning towards ≊. We can think of every ~ as weakening the notion of equality.

Comment (carlostome) [reply src/Prelude.agda:83]: I've seen ≛ and ≜ being used to denote 'equal by definition'.

Comment (williamdemeo) [reply src/Prelude.agda:83]: I've see `≜` and `:=` (and sometimes an equal with a little `def` on top of it) used for "equal by definition," but I've never see `≛` used for that purpose.  I think we should avoid using `≜` for anything other than definitional equality... and even for that purpose I don't like it.  I agree with Andre that there so are many equality symbols to choose from, so we can probably find one that avoids using tildes.  Having said that, I have no problem with using tildes for this.

Tildes are used all over the place and for so many different notions of equality that one can never assume one knows in advance what it means.  I think that's actually what we want here---the reader needs to look at the definition to know what we mean by whatever symbol we choose for this "equality."

Comment (carlostome) [reply src/Prelude.agda:83]: > I've seen ≛ 

The symbol displays differently in a code block:
≛ vs `≛`

I definitely have not seen ≛ used for eq. by def.

File: src/Ledger/Ledger.lagda [hunk 4]
```diff
@@ -73,47 +81,55 @@ allColdCreds govSt es =
...
-       Γ ⊢ s ⇀⦇ tx ,LEDGER⦈ ⟦ utxoSt' , govSt , certState ⟧
+    ∙ isValid tx ≡ true
+    ∙ ⟦ slot , pp , Γ .treasury ⟧  ⊢ utxoSt ⇀⦇ tx ,UTXOW⦈ utxoSt'
+    ∙ ⟦ epoch slot , pp , txvote , txwdrls , allColdCreds govSt enactState ⟧ ⊢ certState ⇀⦇ txcerts ,CERTS⦈ certState'
+    ∙ ⟦ txid , epoch slot , pp , ppolicy , enactState , certState' , dom rewards ⟧ ⊢ rmOrphanDRepVotes certState' govSt ⇀⦇ txgov txb ,GOVS⦈ govSt'
+      ────────────────────────────────
+      Γ ⊢ ⟦ utxoSt , govSt , certState ⟧ ⇀⦇ tx ,LEDGER⦈ ⟦ utxoSt' , govSt' , certState' ⟧
+
+  LEDGER-I :
+    let txb = tx .body
```
Comment (WhatisRT) [inline src/Ledger/Ledger.lagda:120]: Is `txb` unused here, or am I blind?

File: src/Ledger/Ledger.lagda [hunk 5]
```diff
@@ -73,47 +81,55 @@ allColdCreds govSt es =
...
+    let  txb         = tx .body
+\end{code}
+\begin{code}[hide]
+         open TxBody txb
+\end{code}
+\begin{code}
+         pp          = Γ .pparams
+         slot        = Γ .slot
+         ppolicy     = Γ .ppolicy
+         enactState  = Γ .enactState
```
Comment (WhatisRT) [inline src/Ledger/Ledger.lagda:109]: I haven't tried it, but I feel this would look better as a fake pattern-match below, now that `Γ` is only used via its fields.

File: src/Ledger/Ledger/Properties.agda [hunk 6]
```diff
@@ -264,40 +264,16 @@ module LEDGER-PROPS (tx : Tx) (Γ : LEnv) (s : LState) where
...
-        ≡⟨ map-++ _ ([ g ] |ᵒ certState) (govSt |ᵒ certState) ⟩
-      dpMap ([ g ] |ᵒ certState) ++ dpMap (govSt |ᵒ certState)
-        ≡⟨ cong (dpMap ([ g ] |ᵒ certState) ++_) (dpMap-|ᵒ govSt certState) ⟩
-      dpMap ([ g ] |ᵒ certState) ++ dpMap govSt
-        ≡⟨ cong (_++ dpMap govSt) (dpMap-|ᵒ-singleton g certState) ⟩
-      dpMap [ g ] ++ dpMap govSt
-        ≡˘⟨ map-++ _ [ g ] govSt ⟩
-      dpMap (g ∷ govSt) ∎
+    dpMap-rmOrphanDRepVotes : ∀ certState govSt → dpMap (rmOrphanDRepVotes certState govSt) ≡ dpMap govSt
+    dpMap-rmOrphanDRepVotes certState govSt = sym (fmap-∘ govSt) -- map proj₁ ∘ map (map₂ _) ≡ map (proj₁ ∘ map₂ _) ≡ map proj₁
```
Comment (WhatisRT) [inline src/Ledger/Ledger/Properties.agda:268]: Nice!

File: src/Ledger/Ratify.lagda [hunk 7]
```diff
@@ -546,55 +546,62 @@ an argument.
...
   d : Bool
 
+open RatifyEnv
+open GovActionState
 \end{code}
 \begin{figure*}[ht]
 \begin{AgdaSuppressSpace}
 \begin{code}
-data _⊢_⇀⦇_,RATIFY'⦈_ :
+data _⊢_⇀⦇_,RATIFIES'⦈_ :
```
Comment (WhatisRT) [inline src/Ledger/Ratify.lagda:561]: Shouldn't this be RATIFY?

File: src/Ledger/Utxo.lagda [hunk 8]
```diff
@@ -485,32 +495,45 @@ data
...
-    ∀ {Γ} {s} {tx}
-    → let open Tx tx renaming (body to txb); open TxBody txb
-          open UTxOEnv Γ renaming (pparams to pp)
-          open UTxOState s
-          sLst = collectPhaseTwoScriptInputs pp tx utxo
+    let  pp         = Γ .pparams
+         utxo       = s .utxo
+         fees       = s .fees
+         deposits   = s .deposits
+         donations  = s .donations
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:505]: I think this would be nicer as a fake pattern-match below. It has the added benefit that the fields of the state would line up nicely.

File: src/Ledger/Utxo.lagda [hunk 9]
```diff
@@ -485,32 +495,45 @@ data
...
           ────────────────────────────────
           Γ ⊢ s ⇀⦇ tx ,UTXOS⦈ ⟦ (utxo ∣ txins ᶜ) ∪ˡ (outs txb) , fees + txfee , updateDeposits pp txb deposits , donations + txdonation ⟧
-
   Scripts-No :
-    ∀ {Γ} {s} {tx}
-    → let open Tx tx renaming (body to txb); open TxBody txb
-          open UTxOEnv Γ renaming (pparams to pp)
-          open UTxOState s
-          sLst = collectPhaseTwoScriptInputs pp tx utxo
+    let  pp         = Γ .pparams
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:519]: Same as above

**Review by WhatisRT — APPROVED** [review]
Thank you, this looks fantastic! Sorry for taking so long, I wanted to be thorough and got distracted a few times.

I made some comments here and there, they should hopefully all be relatively easy changes if you do want to make them. Feel free to not do any of them, but please leave a comment or make an issue if you think it's worth doing some other time.

File: src/Ledger/Certs.lagda [hunk 10]
```diff
@@ -309,34 +310,33 @@ _⊢_⇀⦇_,CERTS⦈_ = ReflexiveTransitiveClosureᵇ' {_⊢_⇀⟦_⟧ᵇ_ = _
...
 \begin{figure*}[h]
 \begin{AgdaSuppressSpace}
 \begin{code}[hide]
 data _⊢_⇀⦇_,DELEG⦈_ where
 \end{code}
 \begin{code}
-  DELEG-delegate : let open PParams pp in
-    ∙ (c ∉ dom rwds → d ≡ keyDeposit)
+  DELEG-delegate :
+    let Γ = ⟦ pp , pools , delegatees ⟧
```
[the remark this answers is not in the document]
Comment (carlostome) [reply src/Ledger/Certs.lagda:326]: Yes, otherwise there is a very strange stretching

File: src/Ledger/Fees.lagda [hunk 11]
```diff
@@ -7,80 +7,100 @@ open import Ledger.Transaction
...
-_↑ℚ : ℕ → ℚ
-n ↑ℚ = mkℚ+ n 1 (1-coprimeTo n ∘ swap)
-\end{code}
 \begin{code}
 scriptsCost : (pp : PParams) → ℕ → Coin
-scriptsCost pp scSz with (PParams.refScriptCostStride pp)
+scriptsCost pp scriptSize
+\end{code}
+\begin{code}[hide]
+  with (PParams.refScriptCostStride pp)
```
[the remark this answers is not in the document]
Comment (carlostome) [reply src/Ledger/Fees.lagda:31]: Using with let's use have the equality symbol underneath
```
  = scriptsCostAux 0ℚ minFeeRefScriptCoinsPerByte scriptSize
```

File: src/Ledger/Ratify.lagda (hunk 7 above)
Comment (carlostome) [reply src/Ledger/Ratify.lagda]: Good catch!

File: src/Ledger/Utxo.lagda (hunk 8 above)
Comment (carlostome) [reply src/Ledger/Utxo.lagda:505]: What do you mean by fake pattern-match?

File: src/Ledger/Ledger.lagda (hunk 4 above)
Comment (carlostome) [reply src/Ledger/Ledger.lagda]: Indeed

File: src/Prelude.agda (hunk 3 above)
Comment (carlostome) [reply src/Prelude.agda:83]: I agree that a simple `~` will not lead to possible confusions with equality and will force people to look it up.

File: src/Ledger/Utxo.lagda (hunk 8 above)
Comment (WhatisRT) [reply src/Ledger/Utxo.lagda:505]: I mean to construct `s` as an index in the conclusion, like with the final state, i.e.
```
Γ ⊢ ⟦ utxo , fees , deposits , donations ⟧ ⇀⦇ tx ,UTXOS⦈ ⟦ (utxo ∣ txins ᶜ) ∪ˡ (outs txb) , fees + txfee , updateDeposits pp txb deposits , donations + txdonation ⟧
```
I call it fake pattern match, because it looks and feels like one (as if pattern-matching on `s`) but it isn't.

File: src/Ledger/Fees.lagda (hunk 1 above)
Comment (williamdemeo) [reply src/Ledger/Fees.lagda:27]: That may be my fault.  I suppose it should say something like, "the sum total of the sizes of the reference scripts."  @WhatisRT could you confirm?

File: src/Ledger/Utxo.lagda (hunk 8 above)
Comment (williamdemeo) [reply src/Ledger/Utxo.lagda:505]: That looks reasonable to me.  Actually, both options look good to me, but I think what Andre suggests is more consistent with the other step rules.

**Comment by williamdemeo** [comment]
This all looks good to me.  I would submit an approval, but Andre has already done so.  LGTM! 🚀

**Comment by WhatisRT** [comment]
Seems LaTeX is unhappy with the tilde: https://github.com/IntersectMBO/formal-ledger-specifications/actions/runs/13585219494/job/37978592462?pr=695#step:4:8378

File: src/Ledger/Fees.lagda (hunk 1 above)
Comment (WhatisRT) [reply src/Ledger/Fees.lagda:27]: Yeah, the explanation should be adjusted then
